US04183868
Preparation of 2,6-dimethyl-N-(2'-propoxyethyl)-aniline
In a steel tube with a diameter of 2.54 cm, which is arranged vertically and provided with a heating jacket, the catalyst prepared according to Example 5(a) is activated with a nitrogen/hydrogen mixture with a hydrogen content of 3.3% by volume for 16 hours at 250° C. The total throughput is 60 ml of the gas mixture per g of catalyst. Per g of catalyst and per hour, 1.0 g of a mixture of 2-propoxyethanol and 2,6-diethylaniline (molar ratio 2:1), together with 56 N1 (2.5 mols) of hydrogen per mol of 2,6-diethylaniline, are then passed over the catalyst at 270° C. and under a pressure of 2 bars. The reaction mixture which issues from the reactor and consists of 2-propoxyethanol, 2,6-diethylaniline, 2,6-diethyl-N-(2'-propoxyethyl)-aniline and by-products is analysed continuously by gas chromatography. The total conversion of 2,6-diethylaniline and the selectivity are calculated from the analytical data. The results are summarised in the table which follows:

reactant | nitrogen hydrogen | N#N.[H][H]
reactant | hydrogen | [H][H] | H2
reactant | 2-propoxyethanol | C(CC)OCCO | C5H12O2
reactant | 2,6-diethylaniline | C(C)C1=C(N)C(=CC=C1)CC | C10H15N
reactant | hydrogen | 2.5 mols | [H][H] | H2
reactant | 2,6-diethyl-N-(2'-propoxyethyl)-aniline | C(C)C1=C(NCCOCCC)C(=CC=C1)CC | C15H25NO
product | 2,6-dimethyl-N-(2'-propoxyethyl)-aniline | CC1=C(NCCOCCC)C(=CC=C1)C | C13H21NO
